US04663347
3-(4-Hydroxy-3-methylbenzofuran-2-yl)propionic acid
A mixture of E-3-(4-hydroxy-3-methylbenzofuran-2-yl)propenoic acid (4.5 g, 20 mmoles), methanol (250 ml), 99% hydrazine hydrate (5 ml) and copper sulfate monohydrate (3 crystals) was stirred at room temperature for several days. The mixture was filtered and concentrated to remove methanol. The aqueous residue was acidified with 20% citric acid solution and extracted with diethyl ether. The ether solution was dried with Na2SO4, filtered, concentrated and chromatographed to obtain 950 mg of the title compound, m.p. 114°-117° C.

reactant | E-3-(4-hydroxy-3-methylbenzofuran-2-yl)propenoic acid | 20 mmoles, 4.5 g | OC1=CC=CC2=C1C(=C(O2)/C=C/C(=O)O)C | C12H10O4
reactant | hydrazine hydrate | 5 ml | O.NN
catalyst | copper sulfate monohydrate | O.S(=O)(=O)([O-])[O-].[Cu+2]
solvent | methanol | 250 ml | CO | CH4O
product | 3-(4-Hydroxy-3-methylbenzofuran-2-yl)propionic acid | 950 mg | OC1=CC=CC2=C1C(=C(O2)CCC(=O)O)C | C12H12O4
